US03935214
1-(4'-Benzyloxy benzyl)-2-phenyl-4-diethylamino ethyl piperazine
1-(4'-Benzyloxy benzyl)-2-phenyl piperazine prepared according to Example 16, is alkylated by means of diethylamino ethylchloride by following the procedure described in Example 3c. The resulting reaction product is obtained in the form of a light yellow oil boiling at 235° C./0.01 mm. Hg.

reactant | 1-(4'-Benzyloxy benzyl)-2-phenyl piperazine | C(C1=CC=CC=C1)OC1=CC=C(CN2C(CNCC2)C2=CC=CC=C2)C=C1 | C24H26N2O
reactant | diethylamino ethylchloride | C(C)N(CC)CCCl | C6H14ClN
product | 1-(4'-Benzyloxy benzyl)-2-phenyl-4-diethylamino ethyl piperazine | C(C1=CC=CC=C1)OC1=CC=C(CN2C(CN(CC2)CCN(CC)CC)C2=CC=CC=C2)C=C1 | C30H39N3O
